US08022222B2
3-(2-(4-Methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid (0.1 g, 0.3055 mmol), triethylamine (0.2129 mL, 1.527 mmol) and THF (2 mL) were combined according to the method of Example 32. The reaction mixture was cooled to 0° C., ethyl carbonochloridate (0.03359 mL, 0.3513 mmol) was added, and the reaction mixture was stirred at 0° C. for 30 minutes. N1,N1-dimethylethane-1,2-diamine (0.1006 mL, 0.9164 mmol) in THF (2 mL) was added to afford N-(2-(dimethylamino)ethyl)-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzamide dihydrochloride (0.07 g, 48.23% yield) as off white solid. 1H NMR (CDCl3) δ 8.97 (bs, 1H), 8.16 (d, 1H), 7.99 (m, 2H), 7.52 (t, 1H), 7.23 (d, 1H), 6.92 (bs, 1H), 6.39 (s, 1H), 3.90 (m, 2H), 3.37 (m, 2H), 2.92 (s, 6H), 2.38 (s, 3H); Mass spectrum (esi) m/z=398 (100) (M+H).

reactant | 3-(2-(4-Methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid | 0.3055 mmol, 0.1 g | CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(C(=O)O)C=CC1 | C16H13N3O3S
reactant | triethylamine | 1.527 mmol, 0.2129 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl carbonochloridate | 0.3513 mmol, 0.03359 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | N1,N1-dimethylethane-1,2-diamine | 0.9164 mmol, 0.1006 mL | CN(CCN)C | C4H12N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(2-(dimethylamino)ethyl)-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzamide dihydrochloride | 0.07 g, 48.23% yield | Cl.Cl.CN(CCNC(C1=CC(=CC=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C)=O)C | InChI=1S/C20H23N5O2S.2ClH/c1-14-13-28-20(23-14)24-18-12-17(7-8-21-18)27-16-6-4-5-15(11-16)19(26)22-9-10-25(2)3;;/h4-8,11-13H,9-10H2,1-3H3,(H,22,26)(H,21,23,24);2*1H
